US08426450B1
To the solution of tert-butyl (6-chloro-4-iodopyridin-3-yl)(methyl)carbamate (62.5 g, 0.172 mol) in 500 mL of anhydrous DCM was added 180 mL of TFA. Then the solution was stirred at room temperature for 4 hrs. Concentrated to remove the solvent, and purified by flash chromatography to afford 45.1 g 6-chloro-4-iodo-N-methylpyridin-3-amine as a yellow solid (Yield: 97.3%).

reactant | tert-butyl (6-chloro-4-iodopyridin-3-yl)(methyl)carbamate | 0.172 mol, 62.5 g | ClC1=CC(=C(C=N1)N(C(OC(C)(C)C)=O)C)I | C11H14ClIN2O2
reactant | TFA | 180 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-4-iodo-N-methylpyridin-3-amine | 45.1 g, Yield: 97.3% | ClC1=CC(=C(C=N1)NC)I | C6H6ClIN2
